US04238494
2-Methylthio-3-nitro-4-n-butylpyrrole (3.7g) was suspended in glacial acetic acid (50 ml) and 30% hydrogen peroxide (1.62g) was added. The mixture was heated to 80° for 7 hours, and it was then evaporated to a brown oil. The crude product was purified by column chromatography using silica gel, eluted with benzene and chloroform, to give an oil which crystallized on standing. This was recrystallised from 2-propanol to give 2-methylsulphinyl-3-nitro-4-butyl-pyrrole (1.6g), m.p. 133-4°.

reactant | 2-Methylthio-3-nitro-4-n-butylpyrrole | 3.7g | CSC=1NC=C(C1[N+](=O)[O-])CCCC | C9H14N2O2S
reactant | hydrogen peroxide | 1.62g | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-methylsulphinyl-3-nitro-4-butyl-pyrrole | 1.6g | CS(=O)C=1NC=C(C1[N+](=O)[O-])CCCC | C9H14N2O3S
